US04186135
500 ml of dioxane, 50 ml of water, 49 g of 7-[(1-adamantyl)-sulfamoyl]-1,4-benzodioxane-5-carboxylic acid and 12.5 g of triethylamine were introduced into a 2-liter balloon flask provided with an agitator and a thermometer. The solution was agitated at ambient temperature and then 17 g of isobutyl chloroformiate was added. The mixture was agitated and then 10 g of butylamine was introduced. After agitation of the mixture dioxane was removed. The residue was dissolved in 200 ml of hot water. The crystals formed by cooling were washed with water, dried and redissolved in 250 ml of acetone at boiling temperature. The solution was filtered hot. The crystals formed by cooling were dried off, washed and dried. 26 g of N-(butyl)-7-[(1-adamantyl)-sulfamoyl]-1,4-benzodioxane-5-carboxamide was produced (M.P. 147° C.; yield: 46.4%).

reactant | dioxane | 500 ml | O1CCOCC1 | C4H8O2
reactant | water | 50 ml | O | H2O
reactant | 7-[(1-adamantyl)-sulfamoyl]-1,4-benzodioxane-5-carboxylic acid | 49 g | C12(CC3CC(CC(C1)C3)C2)NS(=O)(=O)C=2C=C(C3=C(OCCO3)C2)C(=O)O | C19H23NO6S
reactant | butylamine | 10 g | C(CCC)N | C4H11N
solvent | triethylamine | 12.5 g | C(C)N(CC)CC | C6H15N
product | N-(butyl)-7-[(1-adamantyl)-sulfamoyl]-1,4-benzodioxane-5-carboxamide | 26 g, yield: 46.4% | C(CCC)NC(=O)C1=CC(=CC=2OCCOC21)S(NC21CC3CC(CC(C2)C3)C1)(=O)=O | C23H32N2O5S
